US04057413
100 g (1 mole) of 1-methyl-piperazine were heated to 100° C and a total of 204.5 g (1 mole) of dodecyl chloride was added in 3 portions. After a reaction time of 15 minutes, 40 g (1 mole) of solid sodium hydroxide was added in several portions and the mixture was allowed to react for 2 hours at 140°-150° C. The reaction product was then separated from the solid inorganic residue by filtering the reaction mixture whilst hot. The inorganic residue was extracted twice with 200 ml of benzene, the benzene phase was separated off and concentrated and the residue was added to the main filtrate. The product was subjected to a fractional distillation. 177 g (66% of theory) of 1-methyl-4-dodecyl-piperazine of boiling point 90°-115° C/0.01 mm Hg were thus obtained.

reactant | 1-methyl-piperazine | 1 mole, 100 g | CN1CCNCC1 | C5H12N2
reactant | dodecyl chloride | 1 mole, 204.5 g | C(CCCCCCCCCCC)Cl | C12H25Cl
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-4-dodecyl-piperazine | 177 g, 66% | CN1CCN(CC1)CCCCCCCCCCCC | C17H36N2
